.title kicad schematic

.include NPN.lib
.include D.lib
d6 net-_d6-pad1_ net-_d1-pad2_ 1N4148
* u1 net-_r1-pad1_ net-_r2-pad1_ net-_r3-pad1_ net-_r4-pad1_ net-_r14-pad1_ net-_r15-pad1_ net-_r13-pad1_ net-_q12-pad3_ net-_d1-pad2_ net-_d5-pad1_ net-_d7-pad1_ net-_d6-pad1_ net-_d4-pad1_ net-_d3-pad1_ net-_d2-pad1_ net-_d1-pad1_ port
q10 net-_d6-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
r14 net-_r14-pad1_ net-_q10-pad2_ 10.5k
r20 net-_q10-pad3_ net-_q12-pad3_ 3k
q13 net-_d6-pad1_ net-_q10-pad3_ net-_q12-pad3_ Q2N2222
r17 net-_q10-pad2_ net-_q10-pad3_ 7.2k
r15 net-_r15-pad1_ net-_q11-pad2_ 10.5k
d7 net-_d7-pad1_ net-_d1-pad2_ 1N4148
r21 net-_q11-pad3_ net-_q12-pad3_ 3k
q14 net-_d7-pad1_ net-_q11-pad3_ net-_q12-pad3_ Q2N2222
q11 net-_d7-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
r18 net-_q11-pad2_ net-_q11-pad3_ 7.2k
q12 net-_d5-pad1_ net-_q12-pad2_ net-_q12-pad3_ Q2N2222
r13 net-_r13-pad1_ net-_q9-pad2_ 10.5k
d5 net-_d5-pad1_ net-_d1-pad2_ 1N4148
q9 net-_d5-pad1_ net-_q9-pad2_ net-_q12-pad2_ Q2N2222
r19 net-_q12-pad2_ net-_q12-pad3_ 3k
r16 net-_q9-pad2_ net-_q12-pad2_ 7.2k
q7 net-_d3-pad1_ net-_q3-pad3_ net-_q12-pad3_ Q2N2222
d4 net-_d4-pad1_ net-_d1-pad2_ 1N4148
q8 net-_d4-pad1_ net-_q4-pad3_ net-_q12-pad3_ Q2N2222
d3 net-_d3-pad1_ net-_d1-pad2_ 1N4148
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q6 net-_d2-pad1_ net-_q2-pad3_ net-_q12-pad3_ Q2N2222
q1 net-_d1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q5 net-_d1-pad1_ net-_q1-pad3_ net-_q12-pad3_ Q2N2222
d2 net-_d2-pad1_ net-_d1-pad2_ 1N4148
q2 net-_d2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
r6 net-_q2-pad2_ net-_q2-pad3_ 7.2k
r10 net-_q2-pad3_ net-_q12-pad3_ 3k
r9 net-_q1-pad3_ net-_q12-pad3_ 3k
r5 net-_q1-pad2_ net-_q1-pad3_ 7.2k
r1 net-_r1-pad1_ net-_q1-pad2_ 10.5k
r2 net-_r2-pad1_ net-_q2-pad2_ 10.5k
r11 net-_q3-pad3_ net-_q12-pad3_ 3k
q3 net-_d3-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
r3 net-_r3-pad1_ net-_q3-pad2_ 10.5k
r12 net-_q4-pad3_ net-_q12-pad3_ 3k
q4 net-_d4-pad1_ net-_q4-pad2_ net-_q4-pad3_ Q2N2222
r8 net-_q4-pad2_ net-_q4-pad3_ 7.2k
r7 net-_q3-pad2_ net-_q3-pad3_ 7.2k
r4 net-_r4-pad1_ net-_q4-pad2_ 10.5k
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
