.title kicad schematic

.include DS2004.sub
.include NPN.lib
.include D.lib
q11 net-_d7-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
q14 net-_d7-pad1_ net-_q11-pad3_ net-_q12-pad3_ Q2N2222
r21 net-_q11-pad3_ net-_q12-pad3_ 3k
r18 net-_q11-pad2_ net-_q11-pad3_ 7.2k
* u1 net-_r1-pad1_ net-_r2-pad1_ net-_r3-pad1_ net-_r4-pad1_ net-_r14-pad1_ net-_r15-pad1_ net-_r13-pad1_ net-_q12-pad3_ net-_d1-pad2_ net-_d5-pad1_ net-_d7-pad1_ net-_d6-pad1_ net-_d4-pad1_ net-_d3-pad1_ net-_d2-pad1_ net-_d1-pad1_ port
r14 net-_r14-pad1_ net-_q10-pad2_ 10.5k
r15 net-_r15-pad1_ net-_q11-pad2_ 10.5k
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q9 net-_d5-pad1_ net-_q9-pad2_ net-_q12-pad2_ Q2N2222
r19 net-_q12-pad2_ net-_q12-pad3_ 3k
d5 net-_d5-pad1_ net-_d1-pad2_ 1N4148
q12 net-_d5-pad1_ net-_q12-pad2_ net-_q12-pad3_ Q2N2222
r13 net-_r13-pad1_ net-_q9-pad2_ 10.5k
r16 net-_q9-pad2_ net-_q12-pad2_ 7.2k
d7 net-_d7-pad1_ net-_d1-pad2_ 1N4148
q13 net-_d6-pad1_ net-_q10-pad3_ net-_q12-pad3_ Q2N2222
r20 net-_q10-pad3_ net-_q12-pad3_ 3k
q10 net-_d6-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
r17 net-_q10-pad2_ net-_q10-pad3_ 7.2k
d6 net-_d6-pad1_ net-_d1-pad2_ 1N4148
d4 net-_d4-pad1_ net-_d1-pad2_ 1N4148
q8 net-_d4-pad1_ net-_q4-pad3_ net-_q12-pad3_ Q2N2222
q7 net-_d3-pad1_ net-_q3-pad3_ net-_q12-pad3_ Q2N2222
r12 net-_q4-pad3_ net-_q12-pad3_ 3k
r8 net-_q4-pad2_ net-_q4-pad3_ 7.2k
q4 net-_d4-pad1_ net-_q4-pad2_ net-_q4-pad3_ Q2N2222
q3 net-_d3-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
r11 net-_q3-pad3_ net-_q12-pad3_ 3k
r7 net-_q3-pad2_ net-_q3-pad3_ 7.2k
r4 net-_r4-pad1_ net-_q4-pad2_ 10.5k
q2 net-_d2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
r6 net-_q2-pad2_ net-_q2-pad3_ 7.2k
r3 net-_r3-pad1_ net-_q3-pad2_ 10.5k
d3 net-_d3-pad1_ net-_d1-pad2_ 1N4148
q5 net-_d1-pad1_ net-_q1-pad3_ net-_q12-pad3_ Q2N2222
d2 net-_d2-pad1_ net-_d1-pad2_ 1N4148
r10 net-_q2-pad3_ net-_q12-pad3_ 3k
q6 net-_d2-pad1_ net-_q2-pad3_ net-_q12-pad3_ Q2N2222
q1 net-_d1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
r2 net-_r2-pad1_ net-_q2-pad2_ 10.5k
r1 net-_r1-pad1_ net-_q1-pad2_ 10.5k
r9 net-_q1-pad3_ net-_q12-pad3_ 3k
r5 net-_q1-pad2_ net-_q1-pad3_ 7.2k
* u2 net-_r22-pad2_ gnd plot_i2
* u3 net-_r23-pad2_ gnd plot_i2
* u4 net-_r24-pad2_ gnd plot_i2
* u6 net-_r26-pad2_ gnd plot_i2
* u5 net-_r25-pad2_ gnd plot_i2
v1 a_in gnd  dc 2v
v2 b_in gnd  dc 4v
* u10 a_in plot_v1
* u11 b_in plot_v1
* u12 c_in plot_v1
v3 c_in gnd  dc 6v
v4 d_in gnd  dc 8v
* u7 net-_r27-pad2_ gnd plot_i2
* u8 net-_r28-pad2_ gnd plot_i2
* u9 net-_r29-pad2_ gnd plot_i2
r27 c net-_r27-pad2_ 1.7k
r28 b net-_r28-pad2_ 1.7k
r29 a net-_r29-pad2_ 1.7k
r26 d net-_r26-pad2_ 1.7k
r24 f net-_r24-pad2_ 1.7k
r25 e net-_r25-pad2_ 1.7k
x1 a_in b_in c_in d_in e_in f_in g_in gnd com g f e d c b a DS2004
* u16 g_in plot_v1
r22 com net-_r22-pad2_ 1.7k
r23 g net-_r23-pad2_ 1.7k
v7 g_in gnd  dc 14v
v6 f_in gnd  dc 12v
v5 e_in gnd  dc 10v
* u14 e_in plot_v1
* u15 f_in plot_v1
* u13 d_in plot_v1
v_u2 net-_r22-pad2_ gnd 0
v_u3 net-_r23-pad2_ gnd 0
v_u4 net-_r24-pad2_ gnd 0
v_u6 net-_r26-pad2_ gnd 0
v_u5 net-_r25-pad2_ gnd 0
v_u7 net-_r27-pad2_ gnd 0
v_u8 net-_r28-pad2_ gnd 0
v_u9 net-_r29-pad2_ gnd 0
.tran 1e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u2)
plot i(v_u3)
plot i(v_u4)
plot i(v_u6)
plot i(v_u5)
plot v(a_in)
plot v(b_in)
plot v(c_in)
plot i(v_u7)
plot i(v_u8)
plot i(v_u9)
plot v(g_in)
plot v(e_in)
plot v(f_in)
plot v(d_in)
.endc
.end
